US07700633B2
I. 3-Benzyloxy-7-[2-(3-benzyloxy-2-dimethylcarbamoylphenoxy)-ethoxy]-naphthalene-2-carboxylic acid methyl ester
A mixture of 3-benzyloxy-7-(2-hydroxyethoxy)-naphthalene-2-carboxylic acid methyl ester (239 mg, 0.68 mmol), triphenylphosphine (445 mg, 1.70 mmol) and DIAD (0.334 mL, 1.70 mmol) in THF (10 mL) is stirred at RT for 15 min. Then 2-benzyloxy-6-hydroxy-N,N-dimethylbenzamide (460 mg, 1.70 mmol) in THF (8 mL) is added drop wise and the mixture is stirred at RT for 18 h. The solvent is removed and the residue is purified to give the title compound.

reactant | 3-benzyloxy-7-(2-hydroxyethoxy)-naphthalene-2-carboxylic acid methyl ester | 0.68 mmol, 239 mg | COC(=O)C1=CC2=CC(=CC=C2C=C1OCC1=CC=CC=C1)OCCO | C21H20O5
reactant | triphenylphosphine | 1.70 mmol, 445 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 1.70 mmol, 0.334 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 2-benzyloxy-6-hydroxy-N,N-dimethylbenzamide | 1.70 mmol, 460 mg | C(C1=CC=CC=C1)OC1=C(C(=O)N(C)C)C(=CC=C1)O | C16H17NO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 3-Benzyloxy-7-[2-(3-benzyloxy-2-dimethylcarbamoylphenoxy)-ethoxy]-naphthalene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=CC(=CC=C2C=C1OCC1=CC=CC=C1)OCCOC1=C(C(=CC=C1)OCC1=CC=CC=C1)C(N(C)C)=O | C37H35NO7
